US07964607B2
6-[(3S,4S)-4-ethyl-1-(pyridin-2-ylmethyl)pyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
To a solution of 6-[(3S,4S)-4-ethylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one hydrogen chloride (51 mg) in acetonitrile (1 mL) was added potassium carbonate (88 mg) and 2-(bromomethyl)pyridine hydrogen bromide (40 mg) and the reaction mixture was heated at reflux for 72 h in a sealed vial. The reaction mixture was concentrated onto silica and purified via CombiFlash flash chromatography to provide the title compound. 400 MHz 1H NMR (CDCl3) δ 11.50 (brs, 1H), 8.63 (dd, J=1.7, 0.83, Hz, 1H), 8.02 (s, 1H), 7.70-7.67 (m, 1H), 7.40 (d, J=7.9 Hz, 1H), 7.20-7.16 (m, 1H), 4.79-4.77 (m, 1H), 4.12-4.02 (m, 3H), 3.75-3.72 (m, 1H), 3.61-3.53 (m, 2H), 3.39 (t, J=7.9 Hz, 1H), 3.07 (d, J=9.9 Hz, 1H), 2.92-2.90 (m, 1H), 2.37-2.12 (m, 4H), 1.91-1.83 (m, 2H), 1.65-1.60 (m, 1H), 1.54-1.49 (m, 1H), 0.94 (t, J=7.1 Hz, 3H). MS: (M+H m/z 409.1).

reactant | 6-[(3S,4S)-4-ethylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one hydrogen chloride | 51 mg | Cl.C(C)[C@H]1[C@@H](CNC1)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O
reactant | potassium carbonate | 88 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(bromomethyl)pyridine hydrogen bromide | 40 mg | Br.BrCC1=NC=CC=C1
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 6-[(3S,4S)-4-ethyl-1-(pyridin-2-ylmethyl)pyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C(C)[C@H]1[C@@H](CN(C1)CC1=NC=CC=C1)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C22H28N6O2
